US08039490B2
Trans-2-Formyl-cyclobutanecarboxylic acid methyl ester
At −78° C., oxalyl Chloride (9.2 mL, 106.5 mmol) was solved in dichloromethane (250 mL) and (15.5 mL, 218 mmol) of dimethylsulfoxide in 20 mL of dichloromethane was added. After 15 minutes of stirring at −78° C., Trans-2-Hydroxymethyl-cyclobutanecarboxylic acid methyl ester (14 g, 95.17 mmol) was added in 78 mL of dichloromethane and 10 minutes later triethylamine (67 mL, 479 mmol) was added and the mixture was stirred for 2 h at −78° C. 150 mL of dichloromethane added and 200 mL of water were added and the aqueous phase was extracted with 200 mL of dichlormethane and the combined organic phases were purified with column chromatography on silica using n-heptane/AcOEt (4+1) to yield 11.1 g, (78 mmol, 82% yield) of the title compound as a colourless liquid. MS (m/e): 165.2 (M+Na+)

reactant | oxalyl Chloride | 106.5 mmol, 9.2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 218 mmol, 15.5 mL | CS(=O)C | C2H6OS
reactant | Trans-2-Hydroxymethyl-cyclobutanecarboxylic acid methyl ester | 95.17 mmol, 14 g | COC(=O)[C@H]1[C@@H](CC1)CO | C7H12O3
reactant | triethylamine | 479 mmol, 67 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 78 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | water | 200 mL | O | H2O
product | Trans-2-Formyl-cyclobutanecarboxylic acid methyl ester | 78 mmol, 82% yield | COC(=O)[C@H]1[C@@H](CC1)C=O | C7H10O3
